US04272437
1-(1'-carboxy-1'-chloromethyl)-4-tritylthio-2-azetidinone
A cooled (ice bath) solution of the triethylamine salt of 1-(1'-carboxy-1'-hydroxymethyl)-4-tritylthio-2-azetidinone (1.04 g, 2.0 mmol) in methylene chloride (5 ml) was treated dropwise, under N2, with thionyl chloride (0.16 ml, 2.2 mmol) in methylene chloride (2 ml). The solution was stirred at room temperature for 20 min and concentrated. The residue was diluted with benzene and filtered over a Celite/charcoal bed. The filtrate was evaporated in vacuo to give 870 mg (quantitative) of the title compound as an amorphous solid. It was used in the next step without further purification. ir νmax : 1775 cm-1 ; 1Hmr (CDCl3) δ: 9.22 (1H, bs), 7.27 (15H, m), 5.3 and 5.2 (1H, 2d, J=2Hz), 4.6 (1H, m) and 2.8 ppm (2H, m).

reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | 1-(1'-carboxy-1'-hydroxymethyl)-4-tritylthio-2-azetidinone | 2.0 mmol, 1.04 g | C(=O)(O)C(O)N1C(CC1SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C24H21NO4S
reactant | thionyl chloride | 2.2 mmol, 0.16 ml | S(=O)(Cl)Cl | Cl2OS
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
product | 1-(1'-carboxy-1'-chloromethyl)-4-tritylthio-2-azetidinone | C(=O)(O)C(Cl)N1C(CC1SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C24H20ClNO3S
